US06087336
Methyl iodide (10 ml) was added to Boc-(D)-Met-(L)-Ala-OMe (8 g) in a mixture of DMF (20 ml) and dichloromethane (20 ml) and the mixture was allowed to stand for 16 hours and then evaporated to dryness. Further dichloromethane (2×50 ml) was added and evaporated to remove residual methyl iodide and the residue was dissolved in a mixture of DMF (300 ml) and dichloromethane (300 ml). The mixture was cooled to ~5° C. and sodium Wydride (0.76 g of an 80% dispersion in mineral oil) was add ed in one portion and the mixture was stirred at this temperature for 2 hours. Saturated aqueous ammonium chloride (50 ml) was added and the mixture was evaporated to dryness and then partitioned between water and ether. The ether extract was washed with brine and dried and evaporated to give a gum which was purified by flash chromatography on a sinter flinnel (25% ethyl acetate:hexane to 100% ethylacetate) to give methyl (2S)-2-[(3R)-3-(N-[tert-butyloxycarbonyl]amino)-2-oxo-pyrrolidin-1-yl]propionate as a gum (4.2 g) which crystallised on standing: NMR (CDCl3): 1.4 (s, 9H), 1.4 (d, 3H), 1.8 (m, 1H), 2.6 (m, 1H), 3.4 (m, 2H), 3.7 (m, 3H), 4.2 (m, 1H), 4.9 (q, 1H), 5.2 (bs, 1H).

reactant | Methyl iodide | 10 ml | CI | CH3I
reactant | Boc-(D)-Met-(L)-Ala-OMe | 8 g | N([C@H](CCSC)C(=O)N[C@@H](C)C(=O)OC)C(=O)OC(C)(C)C | C14H26N2O5S
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | methyl (2S)-2-[(3R)-3-(N-[tert-butyloxycarbonyl]amino)-2-oxo-pyrrolidin-1-yl]propionate | 4.2 g | C(C)(C)(C)OC(=O)N[C@H]1C(N(CC1)[C@H](C(=O)OC)C)=O | C13H22N2O5
